Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old male with minimal past medical history who 
presents with chief complain of left sided chest pain. 
Apparently, he awoke this morning with mild (___) chest pain on 
the left side of his chest radiating up to his left shoulder 
blade. This was worse with deep breaths. No diaphoresis, 
presyncope, or syncope. It did not radiate to the jaw or arm. It 
felt sharp. He did have some shortness of breath. This pain 
waxed and waned but never went away over the course of the day. 
There was no relationship to movement or exertion. He denies any 
diaphoresis, presyncope, or syncope. He had no nausea or 
abdominal pain. No recent history of congestion, cough, or viral 
syndrome. When this continued to not go away he went into an OSH 
at around 5:00 pm. There, he had a CXR that was normal by 
report. His ECG showed nonspecific anterior ST segment 
abnormalities that were concerning enough that they gave him 80 
mg enoxaparin SC, 325 mg ASA, started him on a nitroglycerin 
drip, and morphine *1. With these interventions his pain 
improved dramatically to a level of ___, where it has 
remained. He was transferred to ___.  

 
In the ED VS: T 98.6, P 74, BP 140/70, O2 Sat 100% on 2L. He was 
continued on NTG drip. Typically w/ stable ___ pain but got 
worse briefly and got one does of morphine 4 mg IV with 
improvement. Never became pain free. Cardiology was called and 
evaluated ECG and were unimpressed. Patient was admitted to 
medicine.  

 
Currently, the patient reports continued mild chest pain. No 
dyspnea at this time. He otherwise feels well.  

 
Of note, the patient was seen in the ED on ___ for atypical 
left sided abdominal pain and discharged on famotidine after a 
benign CT abdomen.  

 
REVIEW OF SYSTEMS  
Positive per HPI. The patient denies any fevers, chills, night 
sweats, or unintentional weight loss. She denies shortness of 
breath, cough, or hemoptysis. No abdominal pain, nausea, 
vomiting, constipation, diarrhea, melena, or hematochezia. No 
lower extremity edema, rash, or skin changes. No headache or 
visual changes. ROS otherwise completely unremarkable  

 
Past Medical History:
Unremarkable 
 
Social History:
___
Family History:
 No family history of cardiovascular disease or diabetes 
mellitus. 
 
Physical Exam:
VS: HR 59, BP 116/71, RR 20, O2 Sat 100% on 2L  
Gen: Nonobese middle aged male in NAD  
HEENT: Normocephalic, anicteric, PERRL, OP benign, MMM  
Neck: No masses or lymphadenopathy, no thyroid nodules 
appreciated  
CV: RRR, no M/R/G; there is no jugular venous distension 
appreciated; no carotid bruits; DP, Radial, and carotid pulses 
2+ bilaterally, PMI WNL  
Pulm: CTAB  
Abd:Soft, NT, ND, BS+, no organomegaly or masses appreciated  
Extrem: No clubbing, cyanosis, or edema  
Neuro: A and O*3  
Psych: Pleasant, cooperative  

 
Pertinent Results:
D-DIMER-223

GLUCOSE-100 UREA N-16 CREAT-1.0 SODIUM-138 POTASSIUM-4.6 
CHLORIDE-101 TOTAL CO2-28 ANION GAP-14

CK(CPK)-153
cTropnT-<0.01
CK-MB-3

WBC-8.5# RBC-4.91 HGB-15.0 HCT-42.8 MCV-87 MCH-30.5 MCHC-34.9 
RDW-13.3 PLT COUNT-216
NEUTS-59.8 ___ MONOS-4.7 EOS-2.6 BASOS-1.1

___ PTT-30.6 ___

AP CXR ___: 
FINDINGS: At the right lung apex, a linear structure is seen. In 
the 
periphery of the structure, projecting in the lung areas over 
the clavicle, no lung structure is visualized. These findings 
could be consistent with right pneumothorax. The suspicion 
should be confirmed with an upright chest x-ray. Dr. ___ 
was notified at the time of dictation. 
Otherwise, no changes, no evidence of tension. 
ADDENDUM: The case was re-discussed with the referring 
physicians, ___ right 
apical pneumothorax was confirmed. 

PA/LAT CXR ___:
FINDINGS: The lungs are fully expanded and clear. There is no 
pneumothorax 
or pleural effusion. The heart, mediastinal, hilar, and pleural 
surface 
contours are normal.  
IMPRESSION: Normal radiographs of the chest. 

 
Brief Hospital Course:
Impression/Plan: ___ year old male with no risk factors for 
coronary artery disease presenting with nonexertional, 
pleuritic, persistent chest pain, transferred from OSH with 
lovenox/nitro gtt for possible ACS, now with CXR evidence of R 
PTX, currently hemodynamically stable and satting at 100% on RA. 
 

Chest pain: Likely caused by spontaneous primary PTX (PSP). 
Patient without risk factors including no family h/o of PSP, 
lifetime nonsmoker, and no h/o Marfan's syndrome. It is possible 
that his sx improved because he had been receiving supplemental 
O2 for ?ACS since yesterday. ACS highly unlikely given poor 
story for angina, no EKG changes, and negative enzymes. PE also 
unlikely given no risk factors, and negative D-dimer. Thoracic 
surgery made aware of pt. Stat PA/Lateral negative for PTX 
suggesting resolution. Continued pt on supplemental O2 which can 
increase rate of resorption 6-fold. Repeated the PA/Lat the 
following AM, which was also negative for PTX and discharged 
patient with close f/u with his PCP ___ 1 week. 
 
Medications on Admission:
Famotidine OTC PRN 
 
Discharge Medications:
1. Famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Right apical pneumothorax 

 
Discharge Condition:
Stable, afebrile, chest pain free. 

 
Discharge Instructions:
You were admitted to the hospital for chest pain. A cardiac work 
up remained negative, however a chest x-ray revealed air in the 
space surrounding your lungs, called pneumothorax. Fortunately, 
this resolved on its own with rest and oxygen. If your pain 
returns you should call your PCP or come to the emergency 
department immediately. 

We have not made any changes to your medications. 

If you experience chest pain, shortness of breath, fevers, 
please call your PCP or come to the emergency department 
immediately. 
 
Followup Instructions:
___